US04585780
3-Benzyloxy-1-(2'-hydroxyethyl)-2-methylpyrid-4-one (2 g) is added to concentrated hydrobromic acid (10 ml) and the mixture is heated on a steam bath for 30 minutes. The resultant product is then recrystallised from water to yield 3-hydroxy-1(2'-hydroxyethyl)-2-methylpyrid-4-one as white crystals (0.8 g), m.p. 164°-165° C.; νmax (nujol) 1630, 3150, 3350 cm-1 ; δ(dbDMSO), 2.5 (s, 3H), 3,7 (t, 2H), 4.35 (t, 2H), 7.25 (3, 1H), 8.15 (d, 1H).

reactant | 3-Benzyloxy-1-(2'-hydroxyethyl)-2-methylpyrid-4-one | 2 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C | C15H17NO3
solvent | hydrobromic acid | 10 ml | Br | BrH
product | 3-hydroxy-1(2'-hydroxyethyl)-2-methylpyrid-4-one | 0.8 g | OC1=C(N(C=CC1=O)CCO)C | C8H11NO3
